US08835431B2
a. (2-p-Tolyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloro-ethyl ester (Intermediate 20a)
NaOH (107 mg, 2.67 mmol) was added to a stirred solution of 2-p-tolyl-2H-pyrazol-3-ylamine (for reference procedure see WO 2009/150614, which is incorporated herein by reference in its entirety, 346 mg, 2.00 mmol) in water (1 mL) and EtOAc (4 mL). The mixture was cooled to 0° C., and 2,2,2-trichloroethyl chloroformate (385 L, 2.80 mmol) added. Stirring was continued for 30 min at 0° C. and then for 2 h at RT. The mixture was partitioned between water and EtOAc. The organic phase was washed with brine and concentrated to dryness in vacuo to give the title compound as an orange residue. LCMS (Method 3): Rt 3.90 min, m/z 348, 350 [MH+].

reactant | NaOH | 2.67 mmol, 107 mg | [OH-].[Na+]
reactant | 2-p-tolyl-2H-pyrazol-3-ylamine | C1(=CC=C(C=C1)N1N=CC=C1N)C | C10H11N3
reactant | 2,2,2-trichloroethyl chloroformate | 2.80 mmol, 385 L | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | water | 1 mL | O | H2O
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
product | (2-p-Tolyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloro-ethyl ester | ClC(COC(NC=1N(N=CC1)C1=CC=C(C=C1)C)=O)(Cl)Cl | C13H12Cl3N3O2
